US05547972
A solution of acetyl chloride (8.7 g) in dichloromethane (35.5 ml) was added dropwise with stirring to a solution of 1-{3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}-5-methylimidazol-4-yl-methanol (3.55 g) in dichloromethane (88.8 ml) containing triethylamine (11.1 g) at 0° C. The mixture was stirred at 0° C. for 30 minutes and then at ambient temperature for 2 hours. The mixture was diluted with dichloromethane, washed with 5M sodium hydroxide solution, dried and evaporated. The residue obtained was dissolved in ether and acidified with ethereal hydrogen chloride. The solid was collected by filtration and recrystallised from aqueous propan-1-ol to give 1-{3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}-5-methylimidazol-4-ylmethyl acetate dihydrochloride, m.p. 188°-189° C.

reactant | acetyl chloride | 8.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-{3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}-5-methylimidazol-4-yl-methanol | 3.55 g | ClC1=CC=C(C=C1)C(C)(C)NCCCN1C=NC(=C1C)CO | C17H24ClN3O
reactant | triethylamine | 11.1 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 35.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 88.8 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-{3-[1-(4-chlorophenyl)-1-methylethylamino]propyl}-5-methylimidazol-4-ylmethyl acetate dihydrochloride | Cl.Cl.C(C)(=O)OCC=1N=CN(C1C)CCCNC(C)(C)C1=CC=C(C=C1)Cl | InChI=1S/C19H26ClN3O2.2ClH/c1-14-18(12-25-15(2)24)21-13-23(14)11-5-10-22-19(3,4)16-6-8-17(20)9-7-16;;/h6-9,13,22H,5,10-12H2,1-4H3;2*1H
